US09029377B2
Step A: Preparation of 4-amino-3-cyclopropylbenzonitrile (i-4a)
Palladium (II) acetate (798 mg, 3.55 mmol) was added to a stirred mixture of 4-amino-3-iodobenzonitrile (5.08 g, 20.8 mmol), cyclopropyl boronic acid (2.69 g, 31.3 mmol), potassium phosphate (22.9 g, 108 mmol) and tricyclohexylphosphine (1.17 g, 4.17 mmol) in toluene (40 mL)/water (2 mL). The reaction mixture was degassed and heated to 100° C. for 3 h. After cooling to rt, the reaction mixture was poured into water and extracted with EtOAc. The combined organics were washed with brine, dried (Na2SO4) and concentrated in vacuo. The crude residue was purified by column chromatography on silica gel (gradient elution; 0-20% EtOAc/hexanes as eluent) to afford the title compound i-4-a. m/z (ES) 159 (MH)+

reactant | 4-amino-3-iodobenzonitrile | 20.8 mmol, 5.08 g | NC1=C(C=C(C#N)C=C1)I | C7H5IN2
reactant | cyclopropyl boronic acid | 31.3 mmol, 2.69 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 108 mmol, 22.9 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 4.17 mmol, 1.17 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 3.55 mmol, 798 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2 mL | O | H2O
product | 4-amino-3-cyclopropylbenzonitrile | NC1=C(C=C(C#N)C=C1)C1CC1 | C10H10N2
